US07629358B2
Preparation 30: N-[2-(3-bromophenyl)-1,1-dimethylethyl]-2-chloroacetamide
Chloroacetonitrile (6.63 ml, 105 mmol) was added to a stirred solution of 1-(3-bromophenyl)-2-methylpropan-2-ol) (Preparation 29) (12.0 g, 52.0 mmol) in acetic acid (25 ml) at room temperature. The resulting solution was cooled to 0° C. and concentrated sulfuric acid (25 ml) was added keeping the temperature<10° C. The resulting solution was left to stir for 1 hour and then poured onto ice and basified by the addition of solid potassium carbonate. The product was extracted with ethyl acetate (2×500 ml), the organics combined and washed with water (50 ml), dried (sodium sulfate) and the solvent removed in vacuo to afford the title compound as an orange solid (16.08 g). 1H NMR (400 MHz, CDCl3) δ 7.39-7.32 (1H, d), 7.26 (1H, s), 7.1-7.13 (1H, t), 7.08-7.03 (1H, d), 6.17 (1H, bs), 3.94 (2H, s), 3.02 (2H, s), 1.37 (6H, s). CHN for C12H15BrClNO calc. (found): C, 47.32 (47.26); H, 4.96 (4.87); N, 4.60 (4.65). LRMS (electrospray) m/z 306 [M+H]+

reactant | Chloroacetonitrile | 105 mmol, 6.63 ml | ClCC#N | C2H2ClN
reactant | 1-(3-bromophenyl)-2-methylpropan-2-ol | BrC=1C=C(C=CC1)CC(C)(O)C | C10H13BrO
reactant | sulfuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | N-[2-(3-bromophenyl)-1,1-dimethylethyl]-2-chloroacetamide | 16.08 g | BrC=1C=C(C=CC1)CC(C)(C)NC(CCl)=O | C12H15BrClNO
